US08133901B2
A.2.3 Synthesis of (R)-3-[(6-methyl-imidazo[2,1-b]thiazole-5-carbonyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester
A mixture of (R)-3-amino-1-N-Boc-piperidine (800 mg), 6-methyl-imidazo[2,1-b]thiazole-5-carboxylic acid (801.5 mg), PyBOP (2.08 g), DIEA (1.57 mL) in dry DMF (10 mL) was stirred at RT under nitrogen for 20 h. The reaction mixture was diluted with EA, washed with water. The aqueous phase was extracted twice with EA, the combined organic extracts were washed with brine, dried (MgSO4), filtered and concentrated to yield a crude light brown oil. FC (EA/n-heptane: 1/1 to EA) gave 1.47 g (100%) of the title compound as a solid.

reactant | (R)-3-amino-1-N-Boc-piperidine | 800 mg | N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 6-methyl-imidazo[2,1-b]thiazole-5-carboxylic acid | 801.5 mg | CC=1N=C2SC=CN2C1C(=O)O | C7H6N2O2S
reactant | PyBOP | 2.08 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.57 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
solvent | EA n-heptane | CC(OCC)=O.CCCCCCC
product | (R)-3-[(6-methyl-imidazo[2,1-b]thiazole-5-carbonyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 1.47 g, 100% | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)NC(=O)C1=C(N=C2SC=CN21)C | C17H24N4O3S
